US06194425B1
Using the general method of Example 55, benzyl chloroformate (83 μL, 0.58 mmol) was reacted with 4-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)butaneamine (0.15 g, 0.48 mmol) to provide 0.18 g of benzyl N-[4-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)butyl]carbamate as a white powder.

reactant | benzyl chloroformate | 0.58 mmol, 83 μL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | 4-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)butaneamine | 0.48 mmol, 0.15 g | NC1=NC=2C=CC=NC2C2=C1N=C(N2CCCCN)CCCC | C17H24N6
product | benzyl N-[4-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)butyl]carbamate | 0.18 g | NC1=NC=2C=CC=NC2C2=C1N=C(N2CCCCNC(OCC2=CC=CC=C2)=O)CCCC | C25H30N6O2
